US07045337B2
To further demonstrate that the observed phenotype is due to the site-specific incorporation of O-methyl-L-tyrosine by the orthogonal mtRNACUATyr/mutant TyrRS (LWJ16) pair in response to an amber stop codon, an O-methyl-L-tyrosine mutant of dihydrofolate reductase (DHFR) was generated and characterized. The third codon of the E. coli DHFR gene (a permissive site) was mutated to TAG and a C-terminal HiS6 tag was added in order to separate the mutant protein from endogenous E. coli DHFR. As a control, the mtRNACUATyr was coexpressed with the wild type M. jannaschii TyrRS, resulting in efficient suppression of the nonsense codon in DHFR with tyrosine. See FIG. 2. When the mutant TyrRS (LWJ16) was expressed in the presence of mtRNACUATyr and 1 mM O-methyl-L-tyrosine in liquid GMML growth media, full length DHFR was also produced and could be purified by Ni affinity chromatography with an isolated yield of 2 mg/liter.

reactant | O-methyl-L-tyrosine | COC1=CC=C(C[C@H](N)C(=O)O)C=C1 | C10H13NO3
reactant | dihydrofolate | C(CC[C@@H](C(=O)O)NC(=O)C1=CC=C(NCC=2CNC=3N=C(N)NC(=O)C3N2)C=C1)(=O)[O-]
product | tyrosine | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
